US06376409B1
3,5-Dibromo-trimethylsilyl-benzene
42.4 g of Tribromobenzene (134.6 mmol) was dissolved in 600 mL Et2O. The solution was chilled to −55° C., at which temperature starting material precipitated. 54 mL of n-BuLi (2.5 M in hexanes, 135 mmol) were added within 20 minutes. After stirring for 35 minutes at −52° C., 20 ml TMSCl (158 mmol) and 20 mL Et2O were added within 7 minutes. The suspension turned into a solution at −42° C., and a fine precipitate appeared at −30° C. The suspension was stirred overnight at room temperature. 100 mL 2M HCl were used to hydrolyze the mixture. After stirring for 30 minutes, the Et2O—phase was dried with MgSO4, filtered, and solvent evaporated until compound crystallized out of solution. The flask was stored overnight at +4° C. The crystalline compound was filtered, washed with a small amount cold pentane, and dried under vacuo. A second fraction of crystalline compound was obtained from the filtrate. Yield: 31.9 g (103.5 mmol, 77%). 1H-NMR (CHCl3=7.24 ppm): δ 7.62 (t, 1H), 7.49 (d, 2H), 0.25 (s, 3×3H).

reactant | Tribromobenzene | 134.6 mmol, 42.4 g | BrC=1C(=C(C=CC1)Br)Br | C6H3Br3
reactant | n-BuLi | 135 mmol, 2.5 M, 54 mL | [Li]CCCC
reactant | TMSCl | 158 mmol, 20 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | HCl | 2M, 100 mL | Cl | ClH
solvent | Et2O | 600 mL | CCOCC | C4H10O
solvent | Et2O | 20 mL | CCOCC | C4H10O
product | 3,5-Dibromo-trimethylsilyl-benzene | BrC=1C=C(C=C(C1)Br)[Si](C)(C)C | C9H12Br2Si
